US07728155B2
To a suspension of lithium aluminum hydride (95 wt. %, 0.45 g, 11.25 mmol) in tetrahydrofuran (45 mL) was added (±)-methyl (5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)methylcarbamate (1.16 g, 3.98 mmol) and the resulting reaction mixture was allowed to stir at room temperature for 40 h. The reaction mixture was diluted with tetrahydrofuran (150 mL), quenched with saturated ammonium chloride (50 mL), and the organic layer was separated and washed with saturated aqueous sodium bicarbonate (50 mL), saturated aqueous sodium chloride (50 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude oil. Purification by flash chromatography (silica, methanol:dichloromethane 1:39) provided a light brown oil. The oil was re-dissolved in tetrahydrofuran (50 mL) and aqueous hydrogen chloride (1.0 N, 1 mL) was added. The resulting precipitate was filtered, washed (diethyl ether), and dried to afford 0.23 g (20%) of (±)-1-(5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)-N-methylmethanamine as a white solid, hydrochloride salt. mp 224-226° C.; Anal. calcd. for C14H14ClNOHCl.0.1H2O: C, 58.80; H, 5.36; N, 4.90. Found: C, 58.65; H, 5.30; N, 4.84.

reactant | lithium aluminum hydride | 11.25 mmol, 0.45 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (±)-methyl (5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)methylcarbamate | 3.98 mmol, 1.16 g | ClC1=CC2=C(OC(C2)CNC(OC)=O)C2=CC=CC=C12 | C15H14ClNO3
reactant | hydrogen chloride | 1.0 N, 1 mL | Cl | ClH
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (±)-1-(5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)-N-methylmethanamine | 0.23 g, 20% | ClC1=CC2=C(OC(C2)CNC)C2=CC=CC=C12 | C14H14ClNO
